* NDMOS40 strong-inversion Id-Vg (theta): Vds=+10 V, W=10u
* Generated by pdk_validation/characterization -- phase 2 harness.
* Instruments (ideal, not DUT): Vd (drain bias), Vg (gate sweep) -- ideal sources
* Re-run standalone:  ngspice -b <this file>
.include "C:/Users/chris/ngspice/BiCMOS Process - Automotive/autohv-bicmos180-pdk/autohv_bicmos180_case.lib"
.param case=0
.param PROC_ON=0
.param MM_ON=0
XH1 d g 0 NDMOS40 W=10u
Vd d 0 dc 10.0
Vg g 0 dc 0
.control
dc Vg 1.55 5.05 0.05
echo TBL_BEGIN
print abs(i(Vd))
echo TBL_END
.endc
.end
